US05179125
4-Chloro-3-nitrobenzoic acid (5.0 g) is suspended in xylene (50 ml), and thereto are added triethylamine (2.5 g) and pyrrolidine (2.0 g), and the mixture is refluxed for 2 hours. To the reaction mixture is added 10% aqueous citric acid solution, and the precipitated crystals are separated by filtration, washed with water and dried to give 3-nitro-4-(1-pyrrolidinyl)benzoic acid (5.6 g).

reactant | 4-Chloro-3-nitrobenzoic acid | 5.0 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 2.0 g | N1CCCC1 | C4H9N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-nitro-4-(1-pyrrolidinyl)benzoic acid | 5.6 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1N1CCCC1 | C11H12N2O4
